US09227901B2
N-((1S,2R)-1-benzyl-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide
Chlorocyclooctadiene rhodium(I) dimer (0.072 g, 0.292 mmol), Josiphos SL-J216-1 (0.197 g, 0.307 mmol), and N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide (19.75 g, 61.4 mmol) were combined in a 500 ml SS pressure bottle, and the vessel was inerted with argon. Degassed methanol (200 ml) was added, the vessel was again inerted, then the mixture was stirred under 20 psig of argon at 50° C. for 20 min. The vessel was then pressurized with 60 psig of hydrogen and stirred at 55° C. for 14 hrs. HPLC analysis (YIYINADH.M, s.m. 9.08 min. with a 1.5 PA % impurity at 12.14 min., product enantiomers 9.45 and 13.41 min.) indicated 100% conversion and 95.6% ee. Crystallization from MeOH afforded the title compound (yield: 15%; ee: 99.5%).

reactant | Josiphos SL-J216-1 | 0.307 mmol, 0.197 g | C[C@@H]([C]1[CH][CH][CH][C]1P(C2=CC=CC3=CC=CC=C32)C4=CC=CC5=CC=CC=C54)P | C27H23P2
reactant | N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide | 61.4 mmol, 19.75 g | C(C1=CC=CC=C1)C1=C(CCC2=CC=C(C=C12)OC)NC(CC)=O | C21H23NO2
reactant | hydrogen | [H][H] | H2
catalyst | Chlorocyclooctadiene rhodium(I) | [Rh+].ClC1=CC=CCCCC1
solvent | methanol | 200 ml | CO | CH4O
product | N-((1S,2R)-1-benzyl-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide | yield: 15% | C(C1=CC=CC=C1)[C@@H]1[C@@H](CCC2=CC=C(C=C12)OC)NC(CC)=O | C21H25NO2
